US07635700B2
To a stirred mixture of 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.65 g, 1.9 mmol) in acetonitrile (10 mL), was added acetyl chloride (0.13 mL, 1.8 mmol) and N,N-diisopropyl ethylamine (0.70 mL, 4.3 mmol). The mixture was stirred at room temp for 15 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica get, methanol/methylene chloride 4%/96%) to give N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-acetamide as a light yellow solid (104 mg, 16% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 3.93 min (99.0%); mp, 293-291° C.; 1HNMR (DMSO-d6) 1.92 (s, 3H, CH3), 2.14-2.20 (m, 1H, CHH), 2.57-2.86 (m, 6H, CHCH2, CH3), 4.73-4.77 (m, 2H, CH2NH), 5.23 (dd, J=6, 11 Hz, 1H, CH), 7.31-7.76 (m, 3H, Ar), 8.22 (t, J=6 Hz, 1H, CH2NH); 13C NMR (DMSO-d6) δ 20.78, 22.60, 23.26, 30.58, 41.49, 56.48, 117.65, 124.48, 125.42, 133.83, 141.06, 148.44, 154.75, 160.95, 169.32, 169.51, 172.58. LCMS MH=343; Anal Calcd For C17H18N4O4: C, 59.64; H, 5.30; N, 16.37. Found: C, 59.46; H, 5.05; N, 16.24.

reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.9 mmol, 0.65 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
reactant | acetyl chloride | 1.8 mmol, 0.13 mL | C(C)(=O)Cl | C2H3ClO
reactant | N,N-diisopropyl ethylamine | 4.3 mmol, 0.70 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-acetamide | 104 mg, 16% yield | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)CNC(C)=O)C)=O | C17H18N4O4
